US06881733B1
A mixture of 0.675 g (3.14 mMol) 7-bromo-5-fluorobenzofuran, 5.0 g (31.40 mMol)1-benzyl-3-pyrroline, 2.19 mL (12.56 mMol), N,N-diisopropylethylamine, 0.399 g (9.42 mMol) LiCl, 0.154 g (0.66 mMol) tri-2-furylphosphine, and 0.070 g (0.314 mMol) palladium diacetate in 10 mL N,N-dimethylformamide was heated under nitrogen at 100° C. for 48 hours. The mixture was diluted with 10 mL diethyl ether and filtered through celite. The filtrate was concentrated under reduced pressure and the oily residue was submitted to kugelrohr distillation to remove most of the pyrrole and pyrrolidine side-products. Flash chromatography of the residue (Et3N/Et2O/hexane 1:39:60) yielded 1-benzyl-3-(5-fluorobenzofur-7-yl)pyrrolidine (173 mg, 19%) as a colorless oil.

reactant | 7-bromo-5-fluorobenzofuran | 3.14 mMol, 0.675 g | BrC1=CC(=CC=2C=COC21)F | C8H4BrFO
reactant | 1-benzyl-3-pyrroline | 31.40 mMol, 5.0 g | C(C1=CC=CC=C1)N1CC=CC1 | C11H13N
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | LiCl | 9.42 mMol, 0.399 g | [Li+].[Cl-]
reactant | tri-2-furylphosphine | 0.66 mMol, 0.154 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
catalyst | palladium diacetate | 0.314 mMol, 0.070 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | 1-benzyl-3-(5-fluorobenzofur-7-yl)pyrrolidine | 173 mg, 19% | C(C1=CC=CC=C1)N1CC(CC1)C1=CC(=CC=2C=COC21)F | C19H18FNO
